US09428469B2
2,6-dichloro-4-nitrobenzonitrile
A solution of copper(I) cyanide (2.6 g, 29.0 mmol, Eq: 2) in DMSO (5 mL) was heated at 60° for 1 hr. Tert-butyl nitrite (5.98 g, 6.9 ml, 58.0 mmol, Eq: 4.00) and a solution 2,6-dichloro-4-nitroaniline (3 g, 14.5 mmol, Eq: 1.00) in DMSO (5 mL) was added and the reaction was stirred for 3 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate 3×. The organic extract was washed with brine and dried over sodium sulfate. Chromatography (200 g Analogix, 100% hex to 5% EtOAc/hex) gave 515 mg (16%) of desired product as a light brown solid.

reactant | copper(I) cyanide | 29.0 mmol, 2.6 g | [Cu]C#N
reactant | Tert-butyl nitrite | 58.0 mmol, 6.9 ml, 5.98 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2,6-dichloro-4-nitroaniline | 14.5 mmol, 3 g | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2,6-dichloro-4-nitrobenzonitrile | 515 mg, 16% | ClC1=C(C#N)C(=CC(=C1)[N+](=O)[O-])Cl | C7H2Cl2N2O2
